US05273999
Preparation of 4-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-1,3-benzenedipropanoic Acid
Using the procedure of example 126, 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one was converted into the title compound by alkylation with 4-[5-(methylsulfonyl)oxypentyloxy]-1,3-benzenedipropanoic acid methyl ester from the preceding exapmle, followed by saponification, in 8% overall yield. The product was a colorless solid, mp 108°-109° C., recrystallized from hexane-ethyl acetate.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 4-[5-(methylsulfonyl)oxypentyloxy]-1,3-benzenedipropanoic acid methyl ester | COC(CCC1=CC(=C(C=C1)OCCCCCOS(=O)(=O)C)CCC(=O)O)=O | C19H28O8S
product | 4-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-1,3-benzenedipropanoic Acid | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=C(C=C(C=C2)CCC(=O)O)CCC(=O)O | C29H36O8
